US06028195
1-[(5-Ethyl-6-methyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-isopropenylphenyl)piperazine
Phenyl N-(5-ethyl-6-methyl-2-methoxypyridin-3-yl)carbamate and 1-(2-isopropenylphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5-ethyl-6-methyl-2-methoxypyridin-3-yl)carbamate | C(C)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C16H18N2O3
reactant | 1-(2-isopropenylphenyl)piperazine | C(=C)(C)C1=C(C=CC=C1)N1CCNCC1 | C13H18N2
product | 1-[(5-Ethyl-6-methyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(2-isopropenylphenyl)piperazine | yield: 51% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C(=C)C | C23H30N4O2
